US05459152
To a solution of 1-tert-butoxycarbonyl-6-bromoindole (5.0 g, 17 mmol) in toluene (200 mL) was added tetrakis(triphenylphosphine)palladium(0) (0.94 g, 0.84 mmol), 2N aqueous Na2CO3 (100 mL), and a solution of 4-methoxyboronic acid in ethanol (50 mL). The 2-phase mixture was heated at 110°-125° C. for two hours. The reaction mixture was cooled to ambient temperature and the layers where separated. The aqueous phase was extracted twice with ether. The combined organic layers where washed twice with brine, dried over MgSO4, filtered, and concentrated in vacuo to give a brown oil. Chromatography on silica gel (250 g, 5% ether, hexanes) afforded 6-(4-methoxyphenyl)-1-tert-butoxycarbonylindole (3.2 g, 58%).

reactant | 1-tert-butoxycarbonyl-6-bromoindole | 17 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)Br | C13H14BrNO2
reactant | Na2CO3 | 2N, 100 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.84 mmol, 0.94 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-methoxyphenyl)-1-tert-butoxycarbonylindole | 3.2 g, 58% | COC1=CC=C(C=C1)C1=CC=C2C=CN(C2=C1)C(=O)OC(C)(C)C | C20H21NO3
